US05677302
Synthesis of [(5-methoxy-2-benzimidazolyl)thio](4-methoxy-3,5-dimethyl-2-pyridyl)acetonitrile
To a solution of 2-mercapto-5-methoxybenzimidazole (15.1 g, 0.14 mole) dissolved in 40 ml of 8.4% sodium hydroxide, was added 170 ml of methanol, followed by bromo(4-methoxy-3,5-dimethyl-2-pyridyl)acetonitrile(21.4 g, 0.11 mole) at room temperature. The mixture was heated to reflux for 1 h under a nitrogen atmosphere. The resulting precipitate was removed by filtration and the methanol was evaporated. The residue obtained was extracted with chloroform, and the chloroform was washed 3 times with water and dried over magnesium sulfate. After evaporation of the solvent, the crude product was recrystallized from diethyl ether to give 22.6 g (90%) of the title compound as yellowish crystals: mp 193°-197° C.; 1H NMR (CDCl3) δ8.25 (s,1H), 7.65 (dd, 1H), 7.30 (m, 1H), 6.90 (m, 1H), 6.30 (br s, 2H), 3.95 (s, 3H), 3.75 (s, 3H), 2.50 (s, 3H), 2.20 (s, 3H) ppm.

reactant | 2-mercapto-5-methoxybenzimidazole | 0.14 mole, 15.1 g | SC=1NC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | methanol | 170 ml | CO | CH4O
reactant | bromo(4-methoxy-3,5-dimethyl-2-pyridyl)acetonitrile | 0.11 mole, 21.4 g | BrC(C#N)C1=NC=C(C(=C1C)OC)C | C10H11BrN2O
solvent | sodium hydroxide | 40 ml | [OH-].[Na+]
product | [(5-methoxy-2-benzimidazolyl)thio](4-methoxy-3,5-dimethyl-2-pyridyl)acetonitrile | 22.6 g, 90% | COC1=CC2=C(N=C(N2)SC(C#N)C2=NC=C(C(=C2C)OC)C)C=C1 | C18H18N4O2S
